* LVS netlist generated with ICnet by 'jk526' on Wed Dec 21 2022 at 21:01:57

*
* Component pathname : $HOME/github/SkippingCarry/working_directory/schematics/v
*
.subckt v  OUT IN VDD GND

        MN1 OUT IN GND GND n L=2u W=6u
        MP1 OUT IN VDD VDD p L=2u W=16u
.ends v

*
* Component pathname : $HOME/github/SkippingCarry/working_directory/schematics/sipo
*
.subckt sipo  IN OUT CLK VAL VALN VDD GND

        X_V4 VALN VAL VDD GND v
        X_V1 N$53 N$51 VDD GND v
        X_V5 OUT VALN VDD GND v
        X_V2 VAL N$53 VDD GND v
        MP1 IN CLK N$51 VDD p L=2u W=16u
        MN2 IN CLK N$51 GND n L=2u W=6u
.ends sipo

