* LVS netlist generated with ICnet by 'jk526' on Wed Dec 14 2022 at 22:30:33

*
* Component pathname : $HOME/github/SkippingCarry/working_directory/schematics/v
*
.subckt v  GND IN VDD OUT

        MN1 OUT IN GND GND n L=2u W=6u
        MP1 OUT IN VDD VDD p L=2u W=16u
.ends v

