* LVS netlist generated with ICnet by 'jk526' on Wed Dec 14 2022 at 17:32:56

*
* Component pathname : $HOME/github/SkippingCarry/working_directory/schematics/vi
*
.subckt vi  OUT VDD GND IN3 IN1 OUTN IN2

        MN5 GND OUTN OUT GND n L=2u W=6u
        MP1 VDD OUTN OUT VDD p L=2u W=16u
        MN3 GND IN1 OUTN GND n L=2u W=12u
        MN2 N$8 IN3 GND GND n L=2u W=12u
        MN1 OUTN IN2 N$8 GND n L=2u W=12u
        MP4 VDD IN3 N$2 VDD p L=2u W=32u
        MP3 OUTN IN1 N$2 VDD p L=2u W=32u
        MP2 N$2 IN2 VDD VDD p L=2u W=32u
.ends vi

